US05412097
Step 1: Preparation of 6-(Benzoylamino)-7-methyl-2-propyl-3-[[2'-(aminosulfonyl)-[1,1']-biphenyl-4-yl]methyl]-3H-imidazo[4,5-b]pyridine
To a mixture of 6-amino-7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine (189 mg, 0.435 mmol) in 14:1 THF/DMF (7.5 mL) at -15° C. was added benzoyl chloride (0.045 mL, 0.392 mmol). The mixture was stirred for 12 h, then 1 mL of MeOH was added and the mixture was o concentrated. Purification (SiO2, 93:3:4 CH2Cl2/MeOH/HOAc) gave the title compound as a solid.

reactant | 6-amino-7-methyl-2-propyl-3-[2'-(aminosulfonyl)[1,1']-biphenyl-4-yl]methyl-3H-imidazo[4,5-b]pyridine | 0.435 mmol, 189 mg | NC=1C(=C2C(=NC1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N)C | C23H25N5O2S
reactant | THF DMF | 7.5 mL | C1CCOC1.CN(C)C=O
reactant | benzoyl chloride | 0.392 mmol, 0.045 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | MeOH | 1 mL | CO | CH4O
product | 6-(Benzoylamino)-7-methyl-2-propyl-3-[[2'-(aminosulfonyl)-[1,1']-biphenyl-4-yl]methyl]-3H-imidazo[4,5-b]pyridine | C(C1=CC=CC=C1)(=O)NC=1C(=C2C(=NC1)N(C(=N2)CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)S(=O)(=O)N)C | C30H29N5O3S
